US05965589
A solution of aluminium chloride (AlCl3) (6.1 g) in diethyl ether (70 ml) was added dropwise to a suspension of lithium aluminum hydride (LiAlH4) (6.4 g) in diethyl ether (270 ml) at 0° C., and the mixture was stirred at room temperature for 10 minutes. Then, a solution of ethyl 4-isopropoxy-3-methoxycinnamate (35.4 g) in diethyl ether-tetrahydrofuran (3:1, 220 ml) was added dropwise at room temperature. The mixture was stirred at room temperature for 2 hours. Then water (170 ml) and 6N sulfuric acid (270 ml) were added dropwise under ice-cooling, and the organic layer was separated, and the aqueous layer was extracted with diethyl ether. The organic layers were combined, washed with water, dried over magnesium sulfate, and concentrated. The residue was subjected to chromatography on silica gel. The fractions eluted with ethyl acetate-hexane (1:2, v/v) gave (E)-3-(4-isopropoxy-3-methoxyphenyl)-2-propenol (27.0 g, 91%) as an oil.

reactant | aluminium chloride | 6.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 6.4 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 4-isopropoxy-3-methoxycinnamate | 35.4 g | C(C)(C)OC1=C(C=C(C=CC(=O)OCC)C=C1)OC | C15H20O4
reactant | sulfuric acid | 6N, 270 ml | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 270 ml | C(C)OCC | C4H10O
solvent | diethyl ether tetrahydrofuran | 220 ml | C(C)OCC.O1CCCC1
solvent | water | 170 ml | O | H2O
product | (E)-3-(4-isopropoxy-3-methoxyphenyl)-2-propenol | 27.0 g, 91% | C(C)(C)OC1=C(C=C(C=C1)/C=C/CO)OC | C13H18O3
